US05958910
4-(3-Trifluoromethyl-phenyl)-thiazol-2-ylamine hydrobromide
A solution of 8.1 g of 2-bromo-1-(3-trifluoromethyl-phenyl)-ethanone in 70 ml of methanol was treated at room temperature with 3.2 g of thiourea and boiled for 1 hour. 4.1 g of 4-(3-trifluoromethyl-phenyl)-thiazol-2-ylamine hydrobromide separated as colorless crystals upon cooling to 0° C.

reactant | 2-bromo-1-(3-trifluoromethyl-phenyl)-ethanone | 8.1 g | BrCC(=O)C1=CC(=CC=C1)C(F)(F)F | C9H6BrF3O
reactant | thiourea | 3.2 g | NC(=S)N | CH4N2S
solvent | methanol | 70 ml | CO | CH4O
product | 4-(3-Trifluoromethyl-phenyl)-thiazol-2-ylamine hydrobromide | Br.FC(C=1C=C(C=CC1)C=1N=C(SC1)N)(F)F | InChI=1S/C10H7F3N2S.BrH/c11-10(12,13)7-3-1-2-6(4-7)8-5-16-9(14)15-8;/h1-5H,(H2,14,15);1H
